US06960607B2
Step a) N-(2,5-Dimethoxyphenyl)-6-hydroxy-1-naphthamide.
A mixture of 6-hydroxy-1-naphthoic acid (5.0 g, 26.6 mmol) and thionyl chloride (20 mL) was refluxed for 1 h. The volatiles were then removed under vacuum. The residue was dissolved in THF (20 mL) and added into a cold (0° C.) solution of 2,5-dimethoxyaniline (4.06 g, 26.6 mmol), triethylamine (10 mL, 71.8 mmol) and THF (100 mL). The mixture was stirred for 30 min, poured into water, acidified with HCl (2N) and extracted with EtOAc. The organic extracts were dried over MgSO4. Evaporation and purification by flash chromatography (hexanes/EtOAc 1/1) gave a tan solid (8.2 g, 95% yield, m.p. 165-166° C.); MS m/e 324 (M+H)+.

reactant | 6-hydroxy-1-naphthoic acid | 26.6 mmol, 5.0 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | thionyl chloride | 20 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 2,5-dimethoxyaniline | 26.6 mmol, 4.06 g | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | triethylamine | 71.8 mmol, 10 mL | C(C)N(CC)CC | C6H15N
reactant | HCl | 2N | Cl | ClH
solvent | water | O | H2O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | N-(2,5-Dimethoxyphenyl)-6-hydroxy-1-naphthamide | 8.2 g, 95% yield | COC1=C(C=C(C=C1)OC)NC(=O)C1=CC=CC2=CC(=CC=C12)O | C19H17NO4
